US07872009B2
Step 2: Benzyl morpholine-2-carboxylate
In a 500-mL round-bottom flask, 2-benzyl 4-tert-butyl morpholine-2,4-dicarboxylate (7.94 g, 25 mmol) was dissolved in DCM (200 mL). It was then cooled to 0° C. TFA (15 ml, 198 mmol) was added via pipet, and the solution was allowed to warm naturally to ambient temperature in the ice bath, whereupon it was stirred for 14 h. The mixture was concentrated to afford the title compound (50% by weight with the remainder assumed to be TFA, 10.86 g, 24 mmol). MS m/z 222 (M+1).

reactant | 2-benzyl 4-tert-butyl morpholine-2,4-dicarboxylate | 25 mmol, 7.94 g | N1(CC(OCC1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C17H23NO5
reactant | TFA | 198 mmol, 15 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | Benzyl morpholine-2-carboxylate | N1CC(OCC1)C(=O)OCC1=CC=CC=C1 | C12H15NO3
